US07064124B2
N-[4-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoyl]-4-methoxyaniline
p-Methoxyaniline (4.3 mg, 0.0349 mmol), triethylamine (5.9 mg, 0.0584 mmol) and 2-chloro-1,3-dimethylimidazolinium chloride (9.9 mg, 0.0585 mmol) were added to a methylene chloride solution (3 ml) of 4-(5,6-dimethoxy-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid (11 mg, 0.0294 mmol) and the resulting solution was stirred at room temperature for 6 hours. The reaction solution was poured into ice water and then extracted with ether. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (hexand:ethyl acetate=1:3) to obtain the titled compound (6 mg, 0.0125 mmol, 43%).

reactant | p-Methoxyaniline | 0.0349 mmol, 4.3 mg | COC1=CC=C(N)C=C1 | C7H9NO
reactant | triethylamine | 0.0584 mmol, 5.9 mg | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 0.0585 mmol, 9.9 mg | [Cl-].ClC1[NH+](CCN1C)C
reactant | 4-(5,6-dimethoxy-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid | 0.0294 mmol, 11 mg | COC=1C(C=C(C(C1OC)=O)CC1=CC(=C(C(=O)O)C=C1)OC(C)=O)=O | C18H16O8
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | N-[4-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoyl]-4-methoxyaniline | 0.0125 mmol, 6 mg, 43% | COC=1C(C(=C(C(C1OC)=O)CC1=CC(=C(C(=O)NC2=CC=C(C=C2)OC)C=C1)OC(C)=O)C)=O | C26H25NO8
